US06727249B2
(1R*,2R*,5S*,6R*)-8-Benzyl-2-{[3,5-bis(trifluoromethyl)phenyl]methoxy}-6-cyano-1-phenyl-8-azabicyclo[3.2.1]octane
Sodium hydride (0.3 g, 7.5 mmol, 60% in oil) was added portionwise to a solution of 3,5-bis(trifluoromethyl)benzyl bromide (2.5 g, 8.3 mmol) and (1R*,2R*,5S*,6R*)-8-benzyl-6-cyano-1-phenyl-8-azabicyclo[3.2.1]octan-2-ol (Description 31; 1.4 g, 4.4 mmol) in THF (20 ml). The mixture was stirred at 50° C. for 18 hours then cooled with an ice-bath and quenched by dropwise addition of water. The mixture was partitioned between brine and ethyl acetate. The organic layer was separated, dried (MgSO4), filtered and concentrated. Chromatography on silica gel eluting with 2.5, 5, 10 and 20% ethyl acetate/iso-hexanes afforded the title compound (2.12 g, 88%).

reactant | Sodium hydride | 7.5 mmol, 0.3 g | [H-].[Na+]
reactant | 3,5-bis(trifluoromethyl)benzyl bromide | 8.3 mmol, 2.5 g | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
reactant | (1R*,2R*,5S*,6R*)-8-benzyl-6-cyano-1-phenyl-8-azabicyclo[3.2.1]octan-2-ol | 4.4 mmol, 1.4 g | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1[C@@H](C2)C#N)O)C2=CC=CC=C2 | C21H22N2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (1R*,2R*,5S*,6R*)-8-Benzyl-2-{[3,5-bis(trifluoromethyl)phenyl]methoxy}-6-cyano-1-phenyl-8-azabicyclo[3.2.1]octane | 2.12 g, 88% | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1[C@@H](C2)C#N)OCC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C2=CC=CC=C2 | C30H26F6N2O
